US08975254B2
f) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid (0.211 g, 0.499 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.1 g, 0.384 mmol). The product was purified by flash chromatography. LC-MS: [M+1]=666.142.

reactant | 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid | 0.499 mmol, 0.211 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=NOC(=N1)C(=O)O | C25H18N4O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.384 mmol, 0.1 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H29ClN8O2
